US06846819B1
a) 3-(Methylaminomethyl) 1H-indole
To a solution of indole-3-carboxaldehyde (5.4 g, 34.1 mmole) in MeOH (30 mL) was added a solution of 2.0 M CH3NH2 in MeOH (51.3 mL, 102.6 mmole). The reaction was stirred at RT overnight, then was concentrated to a light yellow oil. This oil was dissolved in EtOH (40 nL), and NaBH4 (1.3 g, 34.1 mmole) was added. After 16 hrs the reaction was concentrated to a slurry and dissolved in 10% Na2CO3(100 mL). The aqueous solution was extracted with EtOAc (2×200 mL) and the combined organic fractions were dried over Na2SO4 and concentrated. Drying in high vacuum left the title compound (5.2 g, 94%) as a faintly yellow oil: MS (ES) m/e 161 (M+H)+.

reactant | indole-3-carboxaldehyde | 34.1 mmole, 5.4 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | CH3NH2 | 2.0 M | CN | CH5N
reactant | NaBH4 | 34.1 mmole, 1.3 g | [BH4-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | MeOH | 102.6 mmole, 51.3 mL | CO | CH4O
product | 3-(Methylaminomethyl) 1H-indole | CNCC1=CNC2=CC=CC=C12 | C10H12N2
